US08378108B2
[3-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenyl]-carbamic acid benzyl ester (60 mg, 0.17 mmol) was dissolved in HBr solution (1 mL, 33% in acetic acid) and the reaction mixture was stirred overnight. The solvent was removed and the residue was neutralized with saturated sodium bicarbonate solution before being poured into brine. The aqueous phase was extracted 5 times with ethyl acetate. The organic phase was dried with sodium sulfate and the solvent was removed to obtain 3-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenylamine as an off-white powder (30 mg, 88%). 201.1 (M+1). 1H NMR of HBr salt (DMSO) d 9.24 (s, 1H), 7.50-7.63 (m, 3H), 6.6-8.0 (br, 4H+H2O), 3.65 ppm (m, 1H), 1.05 (m, 4H).

reactant | [3-(4-Cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenyl]-carbamic acid benzyl ester | 0.17 mmol, 60 mg | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C1=NN=CN1C1CC1)=O | C19H18N4O2
solvent | HBr | 1 mL | Br | BrH
product | 3-(4-cyclopropyl-4H-[1,2,4]triazol-3-yl)-phenylamine | 30 mg, 88% | C1(CC1)N1C(=NN=C1)C=1C=C(C=CC1)N | C11H12N4
